US07855206B2
Sodium hydride (12 g, 60% in oil, 297 mmol) was rinsed with hexane (4×100 mL), flushed with anhydrous nitrogen, suspended in N,N-dimethylformamide (350 mL) and then treated with nitromethane (44 mL, 81 mmol). The resultant mixture was stirred at room temperature for 2.5 hours, cooled to 0° C. and then treated with a solution of phenyl 2,4,5-trifluorobenzoate (22.8 g, 90.0 mmol) in N,N-dimethylformamide (180 mL) over a period of two hours. The reaction mixture was kept at the same temperature overnight and stirring continued for an additional hour at room temperature. The mixture was poured into ice (400 g) with conc. hydrochloric acid (48 mL). The aqueous mixture was extracted with ethyl acetate (3×250 mL). The combined organic layers were washed with brine (40 mL), dried over anhydrous sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was dissolved in ether-hexane (1:1, 240 mL) and water (200 mL). The organic layer was separated, and the crystals which formed upon standing and cooling in the freezer were recovered by filtration and dried to yield 2-nitro-1-(2,4,5-trifluorophenyl)ethanone as an off-white solid.

reactant | Sodium hydride | 297 mmol, 12 g | [H-].[Na+]
reactant | nitromethane | 81 mmol, 44 mL | [N+](=O)([O-])C | CH3NO2
reactant | phenyl 2,4,5-trifluorobenzoate | 90.0 mmol, 22.8 g | FC1=C(C(=O)OC2=CC=CC=C2)C=C(C(=C1)F)F | C13H7F3O2
reactant | hydrochloric acid | 48 mL | Cl | ClH
solvent | hexane | 100 mL | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
product | 2-nitro-1-(2,4,5-trifluorophenyl)ethanone | [N+](=O)([O-])CC(=O)C1=C(C=C(C(=C1)F)F)F | C8H4F3NO3
